US06822100B2
Trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid dimethylamide (0.27 g, 1 mmol) in tetrahydrofuran was added to a suspension of lithium aluminum hydride (0.2 g, 0.5 mmol) in tetrahydrofuran. The mixture was heated at reflux for 4 hr and stirred at 20° for 12 hr. The reaction was quenched by the sequential addition of 0.5 ml of water, 0.5 ml 15% NaOH solution and 0.5 ml water. After stirring for 1 hr, the insoluble solids were removed by filtration and washed with acetone. The organic solution was concentrated in vacuo and the residue dissolved in methanol and purified by absorption on SCX resin washing with methanol and elution with 1 M methanolic ammonia solution. The basic elutants were concentrated in vacuo, dissolved in fresh methanol and made acidic with 12 N HCl. The acidic solution was thoroughly concentrated in vacuo to give racemic [2-(5-fluoro-1H-indol-3-ylmethyl)-cyclopropyl-methyl]-dimethylamine (165 mg). LC/MS mw=247; retention time 0.96 min. Mol wt calc1d for C15H19FN2: 246.

reactant | Trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid dimethylamide | 1 mmol, 0.27 g | CN(C(=O)[C@H]1[C@@H](C1)C(=O)C1=CNC2=CC=C(C=C12)F)C | C15H15FN2O2
reactant | lithium aluminum hydride | 0.5 mmol, 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | racemic [2-(5-fluoro-1H-indol-3-ylmethyl)-cyclopropyl-methyl]-dimethylamine | 165 mg | FC=1C=C2C(=CNC2=CC1)CC1C(C1)CN(C)C | C15H19FN2
